US04120863
A solution of p-C3F7C6H4OC(O)CH3 (33.2 g; 0.14 mole) in CH3OH (200 ml) containing concentrated HCl (20 ml) was heated to reflux for 24 hours. After cooling and aspiration of the solvent, a brown liquid resulted (28.4 g; 99% crude yield). A gas chromatographic analysis indicated primarily one major component. Distillation provided the product p-C3F7C6H4OH (26.2 g; 92% yield).

reactant | p-C3F7C6H4OC(O)CH3 | 0.14 mole, 33.2 g | C(F)(F)(C(F)(F)C(F)(F)F)C1=CC=C(C=C1)OC(=O)C | C11H7F7O2
reactant | HCl | 20 ml | Cl | ClH
solvent | CH3OH | 200 ml | CO | CH4O
product | p-C3F7C6H4OH | 26.2 g, 92% yield | C(F)(F)(C(F)(F)C(F)(F)F)C1=CC=C(C=C1)O | C9H5F7O
